US05063228
3,4-Dihydro-2-methyl-4-[2-(methylphenylamino)ethyl]pyrimido[1.6-a]benzimidazol-1(2H)-one.
To 15 mL of N-methylaniline was added 3.5 g (0.0133 mol) of 4-(2-chloroethyl)-3,4-dihydro-2-methylpyrimido[1,6-a]benzimidazol-1(2H)-one. The reaction mixture was heated to 90° C. (oil bath) for 2 days, and the excess N-methylaniline removed in vacuo at 80° C., 0.5 mm Hg. The residue was dissolved in 100 mL of CH2Cl2, washed with 2×100 mL of 1N NaOH, dried over Na2SO4, filtered, and concentrated by rotary evaporation. The residue was subjected to high vacuum (0.5 mm, Hg) at 85° C. for 2 hr, and then crystallized from iso-octane/toluene to give 2.3 g (52%) of analytically pure crystals, mp 130°-31° C.

reactant | N-methylaniline | 15 mL | CNC1=CC=CC=C1 | C7H9N
reactant | 4-(2-chloroethyl)-3,4-dihydro-2-methylpyrimido[1,6-a]benzimidazol-1(2H)-one | 0.0133 mol, 3.5 g | ClCCC1CN(C(N2C1=NC1=C2C=CC=C1)=O)C | C13H14ClN3O
product | 3,4-Dihydro-2-methyl-4-[2-(methylphenylamino)ethyl]pyrimido[1.6-a]benzimidazol-1(2H)-one | CN1C(N2C(=NC3=C2C=CC=C3)C(C1)CCN(C1=CC=CC=C1)C)=O | C20H22N4O
